US05049551
Preparation of 3',5'-bis-O-[N-(2n-propyl-n-pentanoyl)-glycyl]-5-fluorouridine (1b)
In 6 ml of ethanol was dissolved 0.5 g of 3',5'-bis-O-[N-(2-n-propyl-n-pentanoyl)glycyl]-2'-O-(2-tetrahydropyranyl)-5-fluorouridine, and after adding 18 mg of pyridinium p-toluenesulfonate at room temperature under stirring, the mixtuer was stirred at 55° C. for 3.5 hours. The residue obtained by condensing the reaction mixture under reduced pressure was applied to silica gel column chromatography to give 0.34 g (Yield: 77%) of the title compound.

reactant | 3',5'-bis-O-[N-(2-n-propyl-n-pentanoyl)glycyl]-2'-O-(2-tetrahydropyranyl)-5-fluorouridine | 0.5 g | C(CC)C(C(=O)NCC(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(CNC(C(CCC)CCC)=O)=O)N1C(=O)NC(=O)C(=C1)F)OC1OCCCC1)CCC | C34H53FN4O11
reactant | pyridinium p-toluenesulfonate | 18 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3',5'-bis-O-[N-(2n-propyl-n-pentanoyl)-glycyl]-5-fluorouridine | 0.34 g, Yield: 77% | C(CC)C(C(=O)NCC(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(CNC(C(CCC)CCC)=O)=O)N1C(=O)NC(=O)C(=C1)F)O)CCC | C29H45FN4O10
